US03953500
To 150 ml. of acetone is added 12.5 g. of 6-benzylindan-1-carboxamide, followed by the dropwise addition of a solution of 5 g. of sodium dichromate in 24 ml. of 6N sulfuric acid. After the addition has been completed, the mixture is stirred overnight. Then, 200 ml. of water is added and the acetone is distilled off under reduced pressure. The residue is extracted with ethyl acetate. The extract is washed with water and dried, followed by removal of the solvent by distillation under reduced pressure. The residue is purified by column chromatography (500 g. of silica gel; eluted with a 7:3 solvent mixture of chloroform and acetone) and the resultant crude crystals are recrystallized from benzene. The procedure gives 6-benzoylindan-1-carboxamide as crystals melting at 195°-197°C.

reactant | acetone | CC(=O)C | C3H6O
reactant | 6-benzylindan-1-carboxamide | C(C1=CC=CC=C1)C1=CC=C2CCC(C2=C1)C(=O)N | C17H17NO
reactant | sodium dichromate | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
reactant | sulfuric acid | 6N | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 6-benzoylindan-1-carboxamide | C(C1=CC=CC=C1)(=O)C1=CC=C2CCC(C2=C1)C(=O)N | C17H15NO2
